US06384220B2
A solution of 2-(4-cyclopentanesulfonyl-phenyl)-3-cyclopentyl-propionic acid ethyl ester (160 mg, 0.42 mmol) in tetrahydrofuran/water/methanol (1.05 mL, 3:1:1) was treated with a 1N aqueous lithium hydroxide solution (0.85 mL, 0.85 mmol). The reaction was stirred at 25° C. for 18 h. At this time, the reaction was diluted with chloroform (30 mL) and water (50 mL), acidified to pH=1 with a 1N aqueous hydrochloric acid solution, and extracted with a solution of chloroform/methanol (90/10, 3×50 mL). The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 chloroform/methanol) afforded 2-(4-cyclopentanesulfonyl-phenyl)-3-cyclopentyl-propionic acid (101.9 mg, 68.7%) as an off white solid: mp 165-167° C.; FAB-HRMS m/e calcd for C19H26O4S (M+H)+ 351.1630 found 351.1646.

reactant | 2-(4-cyclopentanesulfonyl-phenyl)-3-cyclopentyl-propionic acid ethyl ester | 0.42 mmol, 160 mg | C(C)OC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C1CCCC1)=O | C21H30O4S
reactant | lithium hydroxide | 0.85 mmol, 1N, 0.85 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran water methanol | 1.05 mL | O1CCCC1.O.CO
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 mL | O | H2O
product | 2-(4-cyclopentanesulfonyl-phenyl)-3-cyclopentyl-propionic acid | 101.9 mg, 68.7% | C1(CCCC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)CC1CCCC1 | C19H26O4S
